US04273932
Synthesis of 5-Ethoxyimino-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid Ethyl Ester
4-Hydroxy-5-hydroxyimino-5,6,7,8-tetrahydroquinoline-3-carboxylic acid ethyl ester (3.75 g) was suspended in 100 ml of dimethylformamide and then dissolved therein by stirring the suspension on an oil bath at 95° C. Thereafter, 1.04 g of potassium carbonate and then 2.32 g of ethyl iodide were added thereto. The resulting reaction mixture was stirred for 4 hours. After the dimethylformamide was distilled off under reduced pressure, water and ethyl acetate were added to the residue. The organic layer was separated and then stripped of solvent to obtain a yield of 3.0 g of the desired compound. This compound melted at 89°-91° C. (uncorrected values). Its infrared absorption spectrum (KBr tablet) had absorption peaks at 3440, 3000, 2960, 1740, 1640, 1465, 1220, 1190, 1110, 1060, and 990 cm-1, and its n.m.r. spectrum (CDCl3, 60Mc, TMS) had signals at δ values of 1.38 (3H, t, J=6.75 Hz), 1.42 (3H, t, J=7.5 HZ), 1.7-2.2 (2H, m), 2.7-3.15 (4H , m), 4.25 (2H, q. J=6.75 Hz), 4.40 (2H, q, J=7.5 Hz), and 8.77 (1H, s).

reactant | 4-Hydroxy-5-hydroxyimino-5,6,7,8-tetrahydroquinoline-3-carboxylic acid ethyl ester | 3.75 g | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)=NO | C12H14N2O4
reactant | potassium carbonate | 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 2.32 g | C(C)I | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Ethoxyimino-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid Ethyl Ester | yield of 3.0 g | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)=NOCC | C14H18N2O4
